US04665068
A mixture of 0.95 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate, 10 ml of acetic anhydride and 10 ml of acetic acid is stirred at 110° C. for 6.5 hours. After the reaction is completed, the reaction mixture is evaporated under reduced pressure to remove solvent. Toluene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. The residue is recrystallized from a mixture of methanol and ether. 0.93 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate is obtained. Yield: 89.4%

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate | 0.95 g | O.Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2Cl
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate | 0.93 g, Yield: 89.4% | O.Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC=C2Cl | InChI=1S/C22H25ClN2O4S.ClH.H2O/c1-14(26)29-19-20(15-8-10-16(28-4)11-9-15)30-21-17(23)6-5-7-18(21)25(22(19)27)13-12-24(2)3;;/h5-11,19-20H,12-13H2,1-4H3;1H;1H2/t19-,20+;;/m1../s1
